US08735385B2
2-{2-Fluoro-4-[4-((R)-2-methyl-pyrrolidin-1-yl)-cyclohexyl]-phenyl}-2,8-diaza-spiro[4.5]decan-1-one hydrochloride
The title compound was prepared in the same manner as Example 17 by using hydrochloric acid in dioxane to hydrolyze 2-{2-fluoro-4-[4-((R)-2-methyl-pyrrolidin-1-yl)-cyclohexyl]-phenyl}-1-oxo-2,8-diaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester.

reactant | hydrochloric acid | Cl | ClH
reactant | 2-{2-fluoro-4-[4-((R)-2-methyl-pyrrolidin-1-yl)-cyclohexyl]-phenyl}-1-oxo-2,8-diaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2(CCN(C2=O)C2=C(C=C(C=C2)C2CCC(CC2)N2[C@@H](CCC2)C)F)CC1 | C30H44FN3O3
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-{2-Fluoro-4-[4-((R)-2-methyl-pyrrolidin-1-yl)-cyclohexyl]-phenyl}-2,8-diaza-spiro[4.5]decan-1-one hydrochloride | Cl.FC1=C(C=CC(=C1)C1CCC(CC1)N1[C@@H](CCC1)C)N1C(C2(CC1)CCNCC2)=O | InChI=1S/C25H36FN3O.ClH/c1-18-3-2-15-28(18)21-7-4-19(5-8-21)20-6-9-23(22(26)17-20)29-16-12-25(24(29)30)10-13-27-14-11-25;/h6,9,17-19,21,27H,2-5,7-8,10-16H2,1H3;1H/t18-,19?,21?;/m1./s1
